US09233985B2
A solution of (3R,4S)-3-acetamido-N-tert-butyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)pyrrolidine-3-carboxamide (198 mg, 0.5 mmol) in 2:1:1 concentrated HCl:glacial acetic acid:water (8 mL) in a pressure bottle was stirred for 2 h at 60° C., then capped and stirred for 18 h at 130° C., cooled to room temperature, and uncapped. The solution was diluted with water (20 mL), then extracted with methylene chloride (20 mL) and concentrated. The residue was treated with water (20 mL) and concentrated three times to remove excess HCl, then dissolved in water (40 mL) and treated with DOWEX® 550A-OH resin (3 g) which had been rinsed with methanol. The mixture was stirred for 40 min, then filtered and the resin washed successively with water, methanol, methylene chloride, water, methanol, and methylene chloride. The resin was then stirred four times with 1N HCl (15 mL) and filtered, and the combined filtrates were concentrated. The residue was treated with water (20 mL) and concentrated three times to remove excess HCl, then dissolved in 1.5-2.0 mL water and subjected to HPLC gradient purification as follows: 0-25% B with A=0.1% trifluoroacetic acid/water and B=0.1% trifluoroacetic acid/acetonitrile. The appropriate fractions were concentrated, treated three times with 1 N HCl (10 mL) and concentrated, treated three times with water (10 mL) and concentrated, then dissolved in water (10 mL), frozen, and lyophilized overnight to afford (3R,4S)-3-amino-4-(3-boronopropyl)pyrrolidine-3-carboxylic acid (114 mg, 79%) as a pale amber glass. NMR (D2O) δ 3.90 (d, J=13 Hz, 1 H), 3.71 (dd, J1=11.5 Hz, J2=8.5Hz, 1 H), 3.46 (d, J=13Hz, 1H), 3.21 (t, J=12 Hz, 1 H), 2.50-2.65 (m, 1 H), 1.5-1.65 (m, 1 H), 1.10-1.40 (m, 3 H), 0.60-0.75 (m, 2 H). MS (m+1): 217.3; MS (m−H2O+1): 199.1.

reactant | (3R,4S)-3-acetamido-N-tert-butyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)pyrrolidine-3-carboxamide | 0.5 mmol, 198 mg | C(C)(=O)N[C@]1(CNC[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)C(=O)NC(C)(C)C | C20H38BN3O4
reactant | HCl | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
solvent | water | 8 mL | O | H2O
product | (3R,4S)-3-amino-4-(3-boronopropyl)pyrrolidine-3-carboxylic acid | 114 mg, 79% | N[C@]1(CNC[C@@H]1CCCB(O)O)C(=O)O | C8H17BN2O4
